US07094801B2
4-[3-(2-Methoxy-4-thiophen-2-yl-phenyl)-3-oxo-E-propenyl]-benzoic acid
The title compound was prepared by condensing 1-(2-methoxy-4-thiophen-2-yl-phenyl)-ethanone (Ex-19A) and 4-carboxybenzaldehyde in a similar manner as described in Ex-17 except an acidic workup. Yellow solid, mp 193–195° C. 1H-NMR (CDCl3) □ 7.70 (d, J=8 Hz, 2H), 7.38 (d, J=8 Hz, 1H), 7.07–7.16 (m, 4H), 6.75–6.80 (m, 4H), 6.42 (d, J=16 Hz, 1H), 3.67 (s, 3H), MS m/z=364 ([M]+, 100%). Anal. Calculated for C21H16O4S: C, 69.21; H, 4.43; S, 8.80; found: C, 69.02; H, 4.56; S, 8.75.

reactant | 1-(2-methoxy-4-thiophen-2-yl-phenyl)-ethanone | COC1=C(C=CC(=C1)C=1SC=CC1)C(C)=O | C13H12O2S
reactant | 4-carboxybenzaldehyde | C(=O)(O)C1=CC=C(C=O)C=C1 | C8H6O3
product | 4-[3-(2-Methoxy-4-thiophen-2-yl-phenyl)-3-oxo-E-propenyl]-benzoic acid | COC1=C(C=CC(=C1)C=1SC=CC1)C(/C=C/C1=CC=C(C(=O)O)C=C1)=O | C21H16O4S
